US06573273B1
Using the general method of Example 167, 1-(3-aminopropyl)-2-(2-methoxyethyl)-6, 7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (2.0 g, 6.59 mmol) was reacted with 4-morpholinecarbonyl chloride (1.08 g, 7.25 mmol) to provide 1.22 g of N-{3-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]propyl)morpholine-4-carboxamide as a white powder, m.p. 171.8-173.2° C. Analysis: Calculated for C21H32N6O3: %C, 60.56; %H, 7.74; %N, 20.18; Found: %C, 60.30; %H, 7.72; %N, 20.11.

reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-6, 7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 6.59 mmol, 2.0 g | NCCCN1C(=NC=2C(=NC=3CCCCC3C21)N)CCOC | C16H25N5O
reactant | 4-morpholinecarbonyl chloride | 7.25 mmol, 1.08 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | N-{3-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]propyl)morpholine-4-carboxamide | 1.22 g | NC1=NC=2CCCCC2C2=C1N=C(N2CCCNC(=O)N2CCOCC2)CCOC | C21H32N6O3
